US05721020
In a flask equipped with a stirrer were placed a solution of 23.2 g (0.2 mole) of 3-ethyl-3-hydroxy-methyloxetane dissolved in 48.4 g (0.4 mole) of allyl bromide and 50 g of an aqueous solution containing 50% by weight of potassium hydroxide. Thereto was added 1.0 g of tetra-n-butylammonium bromide at 0° C. with vigorous stirring. After 24 hours, 100 ml of dichloromethane and 100 ml of water were added. The resulting organic phase was washed with water twice, dried over magnesium sulfate, and filtered. The filtrate was treated by the use of a rotary evaporator to remove the solvent in the filtrate. The residue was purified by vacuum distillation to obtain 28.6 g of 3-ethyl-3-allyloxymethyloxetane.

reactant | 3-ethyl-3-hydroxy-methyloxetane | 0.2 mole, 23.2 g | C(C)C1(C(OC1)C)O | C6H12O2
reactant | allyl bromide | 0.4 mole, 48.4 g | C(C=C)Br | C3H5Br
reactant | potassium hydroxide | [OH-].[K+]
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | water | 100 ml | O | H2O
catalyst | tetra-n-butylammonium bromide | 1.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-ethyl-3-allyloxymethyloxetane | 28.6 g | C(C)C1(COC1)COCC=C | C9H16O2
